US07807691B2
2-Chloro-4-(2-ethyl-5-phenyl-pyrrolidin-1-yl)-benzonitrile
Dissolve methanesulfonic acid 4-methanesulfonyloxy-1-phenyl-hexyl ester (1.01 g, 2.88 mmol) in toluene (20 mL) in a reaction tube. Add 4-amino-2-chlorobenzonitrile (1.10 g, 7.2 mmol), purge with nitrogen and cap. Heat the reaction in a 120° C. oil bath for 17 h. Cool, concentrate, and purify by silica gel chromatography using 5-30% EtOAc/hexanes to obtain 0.22 g (25%0 of the title compound as a clear oil. MS (ESI+): 311 (M+1)+, 309 (M−1)−.

reactant | methanesulfonic acid 4-methanesulfonyloxy-1-phenyl-hexyl ester | 2.88 mmol, 1.01 g | CS(=O)(=O)OC(CCC(C1=CC=CC=C1)OS(=O)(=O)C)CC | C14H22O6S2
reactant | 4-amino-2-chlorobenzonitrile | 7.2 mmol, 1.10 g | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-(2-ethyl-5-phenyl-pyrrolidin-1-yl)-benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(CCC1C1=CC=CC=C1)CC | C19H19ClN2
